US06410556B1
A solution of 2-amino-5-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (500 mg, 1.29 mmol) and 4-phenoxybenzaldehyde (256 mg, 1.29 mmol) was heated to 50° C. in ethanol (50 ml) for 1 hour in the presence of molecular sieves (4 A, 5 ml). The reaction mixture was cooled on an ice bath before sodium borohydride (98 mg, 2.59 mmol) was added in three portions over 45 min. The cooling bath was removed and the reaction mixture was allowed to reach room temperature. The mixture was filtered through a plug of Celite and the filter cage was washed with dichloromethane (3×25 ml). The solvent was removed in vacuo and the residue was redissolved in ethyl acetate (50 ml), washed with sodium bicarbonate (50 ml) and dried (MgSO4). The solvent was removed in vacuo before the residue was redissolved in acetonitrile (20 ml). Triethylamine (130 mg, 1.29 mmol), di-tert-butyl dicarbonate (282 mg, 1.29 mmol) and 4-(N,N-dimethyl-amino)pyridine (5 mg, cat.) was added and the reaction mixture was stirred for 16 hours at room temperature. The volatiles were removed in vacuo and ethyl acetate (50 ml) was added and the solution was washed with saturated sodium bicarbonate (50 ml) and dried (MgSO4). The crude product was purified by column chromatography (SiO2, petroleum ether-ethyl acetate (9:1)) to give 325 mg (38% overall) of 2-amino-5-(S)-((4-phenoxy-benzylamino)methyl)-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester.

reactant | 2-amino-5-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 1.29 mmol, 500 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@@H](CC21)CN)[C@@H](C)C2=CC=CC=C2)N | C21H29N3O2S
reactant | 4-phenoxybenzaldehyde | 1.29 mmol, 256 mg | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | sodium borohydride | 2.59 mmol, 98 mg | [BH4-].[Na+]
reactant | Triethylamine | 1.29 mmol, 130 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.29 mmol, 282 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | 4-(N,N-dimethyl-amino)pyridine | 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2-amino-5-(S)-((4-phenoxy-benzylamino)methyl)-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 325 mg, 38% | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@@H](CC21)CNCC2=CC=C(C=C2)OC2=CC=CC=C2)[C@@H](C)C2=CC=CC=C2)N | C34H39N3O3S
